US08222248B2
To a solution of 2-(4-methoxycarbonylmethoxy-2,6-dimethylphenyl)-3H-benzoimidazole-5-carboxylic acid (0.3 g, 0.847 mmol) in DMF (6 mL) was added t-butylaniline (0.1338 mL, 0.847 mmol), EDCI (0.1953 g, 1.02 mmol) and HOBt (0.1374 g, 1.02 mmol). The brown solution was stirred at ambient temperature for 18 h. The mixture was extracted with EtOAc, then washed with water, brine, and dried with Na2SO4. The solvent was removed under reduced pressure and the residue purified on silica gel using MeCN/methylene chloride (1:1) to give {4-[6-(4-tert-butylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenoxy}-acetic acid methyl ester.

reactant | 2-(4-methoxycarbonylmethoxy-2,6-dimethylphenyl)-3H-benzoimidazole-5-carboxylic acid | 0.847 mmol, 0.3 g | COC(=O)COC1=CC(=C(C(=C1)C)C=1NC2=C(N1)C=CC(=C2)C(=O)O)C | C19H18N2O5
reactant | t-butylaniline | 0.847 mmol, 0.1338 mL | C(C)(C)(C)NC1=CC=CC=C1 | C10H15N
reactant | EDCI | 1.02 mmol, 0.1953 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.02 mmol, 0.1374 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | {4-[6-(4-tert-butylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenoxy}-acetic acid methyl ester | COC(COC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(NC2=CC=C(C=C2)C(C)(C)C)=O)C)=O | C29H31N3O4
